US09079909B2
Step 1: 2-(4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)acetaldehyde
To a solution of 2-(4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)ethanol (300 mg, 0.86 mmol) in CH2Cl2 (5.7 mL) was added Dess-Martin periodinane (DMP, 437 mg, 1.03 mmol) at room temperature. The mixture was stirred at room temperature for 35 min, then the solids were filtered off and the filtrate was stirred with aqueous NaHCO3 and Na2S2O3 for one hour. The aqueous phase was re-extracted with CH2Cl2 and the combined organic layers were passed over a phase separator and concentrated under reduced pressure. The crude aldehyde 2-(4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)acetaldehyde (384 mg) was used directly in the following step.

reactant | 2-(4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)ethanol | 0.86 mmol, 300 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CCO | C19H15ClN4O
reactant | Dess-Martin periodinane | 1.03 mmol, 437 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 5.7 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)acetaldehyde | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CC=O | C19H13ClN4O
